US09216988B2
In a vial, N-[(4-bromophenyl)methyl]-N-isobutyl-1-phenyl-methanesulfonamide (53 mg, 0.13 mmol), 2-dicyclohexylphosphino-2′,6′-di-i-propoxy-1,1′-biphenyl (3.2 mg, 0.0067 mmol), chloro(2-dicyclohexylphosphino-2′,6′-di-i-propoxy-1,1′-biphenyl)[2-(2 aminoethylphenyl)]palladium(II), methyl-t-butylether adduct (6 mg, 0.0067 mmol) and sodium tert-butoxide (20 mg, 0.20 mmol) were combined and the vial was purged with nitrogen. 1,4-Dioxane (1 mL) and cyclopropyl(piperazin-1-yl)methanone (31 mg, 0.20 mmol) were then added and the reaction was stirred at ambient temperature for 16 hours. The reaction was then partitioned between water and dichloromethane and the dichloromethane layer was isolated with a phase separator cartridge, concentrated and purified by preparative reverse phase HPLC to yield 27 mg of N-[4-(4-cyclopropanecarbonyl-piperazin-1-yl)-benzyl]-N-isobutyl-C-phenyl-methanesulfonamide. 1H NMR (400 MHz, DMSO) δ 7.38-7.34 (m, 5H), 7.21 (d, J=8.5 Hz, 2H), 6.94 (d, J=6.8 Hz, 2H), 4.40 (s, 2H), 4.16 (s, 2H), 3.82-3.78 (m, 2H), 3.62-3.58 (m, 2H), 3.20-3.05 (m, 4H), 2.80 (d, J=7.5, 2H), 2.12-1.92 (m, 1H), 1.60-1.45 (m, 1H), 0.83-0.69 (m, 4H), 0.67 (d, J=7.1 Hz, 6H); LCMS (m/z) ES+ 470.2 [M+1]+.

reactant | N-[(4-bromophenyl)methyl]-N-isobutyl-1-phenyl-methanesulfonamide | 0.13 mmol, 53 mg | BrC1=CC=C(C=C1)CN(S(=O)(=O)CC1=CC=CC=C1)CC(C)C | C18H22BrNO2S
reactant | 2-dicyclohexylphosphino-2′,6′-di-i-propoxy-1,1′-biphenyl | 0.0067 mmol, 3.2 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
reactant | methyl-t-butylether | 0.0067 mmol, 6 mg | COC(C)(C)C | C5H12O
reactant | sodium tert-butoxide | 0.20 mmol, 20 mg | CC(C)([O-])C.[Na+]
reactant | cyclopropyl(piperazin-1-yl)methanone | 0.20 mmol, 31 mg | C1(CC1)C(=O)N1CCNCC1 | C8H14N2O
solvent | 1,4-Dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-[4-(4-cyclopropanecarbonyl-piperazin-1-yl)-benzyl]-N-isobutyl-C-phenyl-methanesulfonamide | 27 mg | C1(CC1)C(=O)N1CCN(CC1)C1=CC=C(CN(S(=O)(=O)CC2=CC=CC=C2)CC(C)C)C=C1 | C26H35N3O3S
